US05132328
A mixture of 3-(naphth-2-ylmethoxy)benzaldehyde, ethyl bromoacetate and zinc was reacted using the procedure described in Example 2. There was thus obtained ethyl 3-hydroxy-3-[3-(naphth-2-ylmethoxy)phenyl)propionate which was reduced with lithium aluminium hydride using the conditions described in note d above to give 3-[3-(naphth-2-ylmethoxy)phenyl]propane-1,3-diol as a colourless oil.

reactant | 3-(naphth-2-ylmethoxy)benzaldehyde | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C=O)C=CC1 | C18H14O2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | ethyl 3-hydroxy-3-[3-(naphth-2-ylmethoxy)phenyl)propionate | OC(CC(=O)OCC)C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C22H22O4
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
catalyst | zinc | [Zn] | Zn
product | 3-[3-(naphth-2-ylmethoxy)phenyl]propane-1,3-diol | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C(CCO)O | C20H20O3
